US04168269
9,10-Dihydro-4-phenethyl-4H-thieno[3,4-b][1,5]benzodiazepine hydrochloride
A 6.12 g. portion of 4,9-dihydro-4-phenylacetyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one is suspended in 100 ml. of tetrahydrofuran under argon and stirred with cooling in an ice bath. To this is added 90 ml. of 1 M diborane in tetrahydrofuran over a period of 10 minutes. The mixture is then stirred at room temperature until solution is complete, refluxed for 18 hours, cooled and 45 ml. of 6 N hydrochloric acid is added. The tetrahydrofuran is removed in vacuo and 75 ml. of 5 N sodium hydroxide is added giving the desired final product, mp. 195°-197° C.

reactant | 4,9-dihydro-4-phenylacetyl-10H-thieno[3,4-b][1,5]benzodiazepin-10-one | C1(=CC=CC=C1)CC(=O)N1C=2C(C(NC3=C1C=CC=C3)=O)=CSC2 | C19H14N2O2S
reactant | diborane | 1 M | B#B | B2
reactant | hydrochloric acid | 6 N | Cl | ClH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 9,10-Dihydro-4-phenethyl-4H-thieno[3,4-b][1,5]benzodiazepine hydrochloride | Cl.C(CC1=CC=CC=C1)N1C=2C(CNC3=C1C=CC=C3)=CSC2 | InChI=1S/C19H18N2S.ClH/c1-2-6-15(7-3-1)10-11-21-18-9-5-4-8-17(18)20-12-16-13-22-14-19(16)21;/h1-9,13-14,20H,10-12H2;1H
